* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                          *
*                                                       *
* Cell Name  : comparator_latch_sr                      *
* Netlisted  : Mon Aug 10 00:38:03 2026                 *
* PVS Version: 16.10-p006 Thu Jul 27 18:05:02 PDT 2017 *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 R(res_generic_m1) met1_res met1(P) met1(N)
*.DEVTMPLT 1 R(res_generic_m2) met2_res met2(P) met2(N)
*.DEVTMPLT 2 R(res_generic_m3) met3_res met3(P) met3(N)
*.DEVTMPLT 3 R(res_generic_m4) met4_res met4(P) met4(N)
*.DEVTMPLT 4 R(res_generic_m5) met5_res met5(P) met5(N)
*.DEVTMPLT 5 D(diode_pd2nw_05v5) diode_pd2nw_05v5_rec psd(PLUS) nwell(MINUS)
*.DEVTMPLT 6 D(diode_pd2nw_05v5_hvt) diode_pd2nw_05v5_hvt_rec psd(PLUS) nwell(MINUS)
*.DEVTMPLT 7 D(diode_pd2nw_05v5_lvt) diode_pd2nw_05v5_lvt_rec psd(PLUS) nwell(MINUS)
*.DEVTMPLT 8 D(diode_pd2nw_11v0) diode_pd2nw_11v0_rec psd(PLUS) nwell(MINUS)
*.DEVTMPLT 9 D(diode_pw2nd_05v5) diode_pw2nd_05v5_rec pwell_all(PLUS) nsd(MINUS)
*.DEVTMPLT 10 D(diode_pw2nd_05v5_lvt) diode_pw2nd_05v5_lvt_rec pwell_all(PLUS) nsd(MINUS)
*.DEVTMPLT 11 D(diode_pw2nd_05v5_nvt) diode_pw2nd_05v5_nvt_rec pwell_all(PLUS) nsd(MINUS)
*.DEVTMPLT 12 D(diode_pw2nd_11v0) diode_pw2nd_11v0_rec pwell_all(PLUS) nsd(MINUS)
*.DEVTMPLT 0 R(RES_GENERIC_ND) diff_res np_term(P) np_term(N)
*.DEVTMPLT 1 R(RES_GENERIC_PD) diff_res pp_term(P) pp_term(N)
*.DEVTMPLT 15 MN(nfet_01v8) nfet_01v8_rec nSourceDrain(D) nfet(G) nSourceDrain(S) pwell_all(B)
*.DEVTMPLT 16 MP(pfet_01v8) pfet_01v8_rec pSourceDrain(D) pfet(G) pSourceDrain(S) nwell(B)
*.DEVTMPLT 17 MP(pfet_01v8_lvt) lvtpfet_01v8_rec pSourceDrain(D) lvtpfet(G) pSourceDrain(S) nwell(B)
*.DEVTMPLT 18 MN(nfet_01v8_lvt) lvtnfet_01v8_rec nSourceDrain(D) lvtnfet(G) nSourceDrain(S) pwell_all(B)
*.DEVTMPLT 19 MP(pfet_01v8_hvt) hvtpfet_01v8_rec pSourceDrain(D) hvtpfet(G) pSourceDrain(S) nwell(B)
*.DEVTMPLT 20 MN(nfet_03v3_nvt) HV_ngate_3v3 HV_source_drain(D) HV_FET_gate(G) HV_source_drain(S) pwell_all(B)
*.DEVTMPLT 21 MN(nfet_05v0_nvt) HV_ngate_5v0 HV_source_drain(D) HV_FET_gate(G) HV_source_drain(S) pwell_all(B)
*.DEVTMPLT 22 MN(nfet_g5v0d10v5) HV_ngate_5v10v HV_source_drain(D) HV_FET_gate(G) HV_source_drain(S) pwell_all(B)
*.DEVTMPLT 23 MP(pfet_g5v0d10v5) HV_pgate_5v10v HV_source_drain(D) HV_FET_gate(G) HV_source_drain(S) nwell(B)
*.DEVTMPLT 24 MN(nfet_20v0) nfet_v20_rec nfet_v20_drain(D) nfet_v20_gate(G) nfet_v20_source(S) pwell_all(B)
*.DEVTMPLT 25 MN(nfet_20v0_zvt) nfet_v20_zvt_rec nfet_v20_drain(D) nfet_v20_gate(G) nfet_v20_source(S) pwell_all(B)
*.DEVTMPLT 26 MP(pfet_20v0) pfet_v20_rec pfet_v20_drain(D) pfet_v20_gate(G) pfet_v20_source(S) nwell(B)
*.DEVTMPLT 27 Q(npn_05v5) npn_rec npnC(C) npnB(B) npnE(E) pwell_all(BN)
*.DEVTMPLT 28 Q(npn_11v0) hvnpn_rec npnC(C) npnB(B) hvnpnE(E) pwell_all(BN)
*.DEVTMPLT 29 Q(pnp_05v5) pnp_rec pnpC(C) pnpB(B) pnpE(E) pwell_all(BN)
*.DEVTMPLT 30 R(res_high_po_0p35) res_high_po_0p35_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 31 R(res_high_po_0p69) res_high_po_0p69_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 32 R(res_high_po_1p41) res_high_po_1p41_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 33 R(res_high_po_2p85) res_high_po_2p85_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 34 R(res_high_po_5p73) res_high_po_5p73_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 35 R(res_xhigh_po_0p35) res_xhigh_po_0p35_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 36 R(res_xhigh_po_0p69) res_xhigh_po_0p69_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 37 R(res_xhigh_po_1p41) res_xhigh_po_1p41_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 38 R(res_xhigh_po_2p85) res_xhigh_po_2p85_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 39 R(res_xhigh_po_5p73) res_xhigh_po_5p73_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 40 C(cap_mim_m3__base) capacitor top_plate(PLUS) bottom_plate(MINUS)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: polyConn$$1                                 *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt polyConn$$1 1
** N=2 EP=1 FDC=0
.ends polyConn$$1

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1M2_C$$2                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1M2_C$$2 1
** N=1 EP=1 FDC=0
.ends M1M2_C$$2

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: polyConn$$3                                 *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt polyConn$$3 1
** N=2 EP=1 FDC=0
.ends polyConn$$3

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1M2_C$$4                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1M2_C$$4 1
** N=1 EP=1 FDC=0
.ends M1M2_C$$4

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: L1M1_C$$5                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt L1M1_C$$5 1
** N=1 EP=1 FDC=0
.ends L1M1_C$$5

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8$$6                                *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8$$6 1 2 3
** N=7 EP=3 FDC=1
M0 3 1 2 2 nfet_01v8 L=1.5e-07 W=7.6e-07 $X=0 $Y=0 $dt=15
.ends nfet_01v8$$6

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: INVX1_UPD                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt INVX1_UPD A Y VDD VSS 5 6
** N=19 EP=6 FDC=2
M0 Y A VSS VSS nfet_01v8 L=1.5e-07 W=7.6e-07 $X=400 $Y=590 $dt=15
M1 Y A VDD VDD pfet_01v8 L=1.5e-07 W=1.13e-06 $X=400 $Y=2420 $dt=16
.ends INVX1_UPD

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pfet_01v8$$11                               *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pfet_01v8$$11 1 2 3 4
** N=10 EP=4 FDC=1
M0 3 1 2 2 pfet_01v8 L=1.5e-07 W=1.13e-06 $X=0 $Y=0 $dt=16
.ends pfet_01v8$$11

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: comparator_latch_sr                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt comparator_latch_sr IN1 IN2 OUT1 OUT2 VDD VSS
** N=20 EP=6 FDC=12
X0 1 polyConn$$1 $T=1290 2900 0 180 $X=1105 $Y=2715
X1 2 polyConn$$1 $T=1290 5900 0 180 $X=1105 $Y=5715
X2 3 M1M2_C$$2 $T=1955 2465 0 90 $X=1795 $Y=2335
X3 4 M1M2_C$$2 $T=1955 6335 0 90 $X=1795 $Y=6205
X4 3 M1M2_C$$2 $T=2890 2990 0 0 $X=2760 $Y=2830
X5 3 polyConn$$3 $T=1955 2465 0 90 $X=1770 $Y=2280
X6 4 polyConn$$3 $T=1955 6335 0 90 $X=1770 $Y=6150
X7 4 M1M2_C$$4 $T=2730 2485 0 0 $X=2440 $Y=2325
X8 3 M1M2_C$$4 $T=2730 6315 0 0 $X=2440 $Y=6155
X9 VDD M1M2_C$$4 $T=3965 260 0 0 $X=3675 $Y=100
X10 VDD M1M2_C$$4 $T=3965 8540 0 0 $X=3675 $Y=8380
X11 4 L1M1_C$$5 $T=2730 2485 0 0 $X=2440 $Y=2320
X12 3 L1M1_C$$5 $T=2730 6315 0 0 $X=2440 $Y=6150
X13 1 VSS 4 nfet_01v8$$6 $T=2120 3050 0 0 $X=1715 $Y=2900
X14 2 VSS 3 nfet_01v8$$6 $T=2120 4990 0 0 $X=1715 $Y=4840
X15 IN2 1 VDD VSS 8 9 INVX1_UPD $T=125 4400 1 0 $X=-55 $Y=-45
X16 IN1 2 VDD VSS 8 9 INVX1_UPD $T=125 4400 0 0 $X=-55 $Y=4135
X17 4 OUT2 VDD VSS 12 13 INVX1_UPD $T=2885 4400 1 0 $X=2705 $Y=-45
X18 3 OUT1 VDD VSS 12 13 INVX1_UPD $T=2885 4400 0 0 $X=2705 $Y=4135
X19 3 VDD 4 VSS pfet_01v8$$11 $T=2120 850 0 0 $X=1675 $Y=670
X20 4 VDD 3 VSS pfet_01v8$$11 $T=2120 6820 0 0 $X=1675 $Y=6640
.ends comparator_latch_sr
